US04996227
Preparation of 3-[(5-iodo-2-thienyl)-methylene]-2.4(3H,5H)-furandione
0.59 gm of tetronic acid (FW=100, 0.056 mole) and 3.65 gm of 5-iodo-2-thiophenecarboxaldehyde (FW=238, 15.3 mmole) were added to a 25 mL roundbottom flask and 2.5 mL of THF were added and the solution was stirred for five minutes. The sludge was allowed to react for 30 minutes, occasionally helping the stirring with a glass rod. The precipitate was then treated with 10 mL of ether and 10 mL of water and swirled. The yellow crystals were then collected on a buchner funnel, washing them with ether, water and ether again. The excess 5-iodo-2-thiophenecarboxaldehyde was then recovered by extracting to aqueous layer with ether and resublimed. The crude adduct was dissolved in hot CHCl3 (approximately 250 mL) and passed through a silica plug (approximately 5 cm). The crystals obtained after solvent evaporation were recrystallized from ethyl acetate/igroin and the yield was 0.85 gm (46%). The material melted at 211°-212° C. (dec.) C9H6IO3S: %C 33.77; %H 1.57; found %C 33.53; %H 1.83 NMR results: 1HNMR (d6DMSO,(H20)/TMS) 6 4.69 (2H, d, 4.8 Hz); 7.53 (1H, m); 8.08 (1H, m).

reactant | tetronic acid | 0.056 mole, 0.59 gm | C1C(=O)COC1=O | C4H4O3
reactant | 5-iodo-2-thiophenecarboxaldehyde | 15.3 mmole, 3.65 gm | IC1=CC=C(S1)C=O | C5H3IOS
reactant | THF | 2.5 mL | C1CCOC1 | C4H8O
reactant | ether | 10 mL | CCOCC | C4H10O
solvent | water | 10 mL | O | H2O
product | 3-[(5-iodo-2-thienyl)-methylene]-2.4(3H,5H)-furandione | IC1=CC=C(S1)C=C1C(OCC1=O)=O | C9H5IO3S
